US07514449B2
Trans-4-[(t-butoxycarbonyl)(methyl)amino]-cyclohexanecarboxylic acid
Methyl trans-4-[(t-butoxycarbonyl)(methyl)amino]cyclohexanecarboxylate (44.78 g) obtained in Reference Example 3(1) is dissolved in methanol (300 ml), and thereto is added 2 N aqueous sodium hydroxide solution (100 ml). The mixture is then stirred at room temperature for 6 hours. The reaction solution is concentrated under reduced pressure. To the residue are added ice-water, ethyl acetate and 10% hydrochloric acid under ice-cooling, and the mixture is extracted with ethyl acetate. The organic layer is washed with water and saturated brine successively, dried over sodium sulfate and evaporated to remove the solvent under reduced pressure. The resulting residue is suspended in a small amount of ethyl acetate, and n-hexane is poured to the mixture. The resulting crystals are collected by filtration, washed with n-hexane/diisopropyl ether several times and dried to give the title compound (39.20 g).

reactant | Methyl trans-4-[(t-butoxycarbonyl)(methyl)amino]cyclohexanecarboxylate | 44.78 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C(=O)OC)C | C14H25NO4
reactant | sodium hydroxide | 2 N, 100 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | Trans-4-[(t-butoxycarbonyl)(methyl)amino]-cyclohexanecarboxylic acid | 39.20 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C(=O)O)C | C13H23NO4
